### PR TITLE
[Merged by Bors] - chore: refactor Lie algebra weight spaces

### PR DESCRIPTION
**Pull request by ocfnash**
The key change is the new definition `LieModule.weightSpaceOf` which shows that the eigenspaces of the action of a single element of a Lie algebra on a representation are Lie submodules. I need to use this fact to develop the theory further.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Lie/Weights.lean [hunk 1]
```diff
@@ -48,68 +49,34 @@ Basic definitions and properties of the above ideas are provided in this file.
...
-  use (toEndomorphism R L M x).maximalGeneralizedEigenspaceIndex 0
-  simp only [← Module.End.generalizedEigenspace_zero, preWeightSpace, Pi.zero_apply, iInf_le,
-    ← (toEndomorphism R L M x).maximalGeneralizedEigenspace_eq]
-#align lie_module.exists_pre_weight_space_zero_le_ker_of_is_noetherian LieModule.exists_preWeightSpace_zero_le_ker_of_isNoetherian
-
-variable {R} (L)
+open LieAlgebra TensorProduct TensorProduct.LieModule
+open scoped BigOperators TensorProduct
+local macro_rules
+  | `(𝕎 $M $χ $x) => `((toEndomorphism R L $M $x).maximalGeneralizedEigenspace $χ)
```
Comment (jcommelin) [inline Mathlib/Algebra/Lie/Weights.lean:63]: Can such macro rules carry docstrings? If so, please add one.

File: Mathlib/Algebra/Lie/Weights.lean [hunk 2]
```diff
@@ -166,64 +133,72 @@ protected theorem weight_vector_multiplication (M₁ : Type w₁) (M₂ : Type w
...
+      intro y m hm
+      simp only [AddSubsemigroup.mem_carrier, AddSubmonoid.mem_toSubsemigroup,
+        Submodule.mem_toAddSubmonoid] at hm ⊢
       rw [← zero_add χ]
-      refine lie_mem_preWeightSpace_of_mem_preWeightSpace ?_ hm
-      suffices preWeightSpace L (0 : L → R) = ⊤ by simp only [this, Submodule.mem_top]
-      exact LieAlgebra.iInf_max_gen_zero_eigenspace_eq_top_of_nilpotent R L }
-#align lie_module.weight_space LieModule.weightSpace
+      exact lie_mem_maxGenEigenspace_toEndomorphism (by simp) hm }
+
```
Comment (jcommelin) [inline Mathlib/Algebra/Lie/Weights.lean:160]: Would it be possible to change the meaning of `𝕎 M χ x`, so that it now denotes a weight space? Or do you think that's not a good idea?

Comment (ocfnash) [reply Mathlib/Algebra/Lie/Weights.lean:160]: I'd be very reluctant to have the same notation mean different things in this way.

I claim the notation for `(toEndomorphism R L M x).maximalGeneralizedEigenspace χ` is useful because it's such a mouthful and we will never care about it (in statements anyway) once we define `weightSpaceOf M χ x`.

However I think `weightSpace M χ` is perfectly fine and not in need of notation.

Of course I'm open to suggestions but as I say, I'd be reluctant to overload notation depending on context.

Comment (jcommelin) [reply Mathlib/Algebra/Lie/Weights.lean:164]: Fair enough, makes a lot of sense

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
